US05539114
A solution of o-tolyl isocyanate (13.3 g, 0.10 mol) in toluene (40 ml) is metered at room temperature into a solution of methyl 4,5-dimethoxyanthranilate (21.1 g, 0.10 mol) in toluene (70 ml). After addition is complete, the mixture is stirred at 90° C. for 2 hours. 1.80 ml of a 30% strength solution of methanolic sodium methoxide (0.010 mol) are metered in and the mixture is stirred at 90° C. for a further 1 hour, methanol being distilled off. After cooling, the product is filtered off with suction and washed with 3×30 ml of toluene. The toluene-moist precipitate is treated with dilute sulfuric acid and the residual toluene is removed by azeotropic distillation. The product is then filtered off with suction, washed with water and dried. 29.0 g of 3-(2-tolyl)-6,7-dimethoxy-2,4(1H,3H)-quinazolinedione (yield: 92.9% of theory) of melting point 282° to 284° C. are obtained.

reactant | o-tolyl isocyanate | 0.10 mol, 13.3 g | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
reactant | methyl 4,5-dimethoxyanthranilate | 0.10 mol, 21.1 g | COC=1C=C(C(C(=O)OC)=CC1OC)N | C10H13NO4
reactant | sodium methoxide | 0.010 mol | C[O-].[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-tolyl)-6,7-dimethoxy-2,4(1H,3H)-quinazolinedione | 29.0 g, yield: 92.9% | C1(=C(C=CC=C1)N1C(NC2=CC(=C(C=C2C1=O)OC)OC)=O)C | C17H16N2O4
